US06194487B1
Next, the 1,4-diaminocyclohexane vapor in the condensing chamber 2 was adiabatically expanded, and the introduced modified particles (27) were exposed thereto for 2 minutes. Consequently, a further polymerization reaction between 2,4-mesitylenedisulfonyl chloride and 1,4-diaminocyclohexane took place on the surface of the modified particles (27), forming a film of 2,4-mesitylenedisulfonyl chloride-1,4-diaminocyclohexane co-polymer.

reactant | 1,4-diaminocyclohexane | NC1CCC(CC1)N | C6H14N2
reactant | 2,4-mesitylenedisulfonyl chloride | C1(=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)S(=O)(=O)Cl)C | C9H10Cl2O4S2
product | 2,4-mesitylenedisulfonyl chloride 1,4-diaminocyclohexane | C1(=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)S(=O)(=O)Cl)C.NC1CCC(CC1)N | InChI=1S/C9H10Cl2O4S2.C6H14N2/c1-5-4-6(2)9(17(11,14)15)7(3)8(5)16(10,12)13;7-5-1-2-6(8)4-3-5/h4H,1-3H3;5-6H,1-4,7-8H2
